US04962109
A solution of sodium methoxide (generated from 0.13 g sodium) in dry methanol (20 cm3) was added to a solution of 4-(ethoxymethyl)-2,3,5,6-tetrafluorobenzyl alcohol (1.2 g) in dry diglyme. The stirred reaction mixture was heated at 90° C. for a period of 4 hours, under an atmosphere of dry nitrogen, after which time a further portion of sodium methoxide (0.1 g) was added, and heating continued for a further 8 hours. After cooling to the ambient temperature the reaction mixture was poured into water, acidified with dilute aqueous hydrochloric acid, and extracted into ethyl acetate. The combined organic extracts were dried over anhydrous magnesium sulphate, and concentrated by evaporation of the solvent under reduced pressure. The brown residue was subjected to column chromatography on silica gel using hexane containing increasing amounts of diethyl ether (from 0% to 100%) by volume as eluent. The crude product thus obtained was again subjected to chromatography on silica gel in a similar manner to give 2,3,5-trifluoro-4-(ethoxymethyl)-6-methoxybenzyl alcohol as a pale yellow oil.

reactant | sodium methoxide | 0.13 g | C[O-].[Na+]
reactant | 4-(ethoxymethyl)-2,3,5,6-tetrafluorobenzyl alcohol | 1.2 g | C(C)OCC1=C(C(=C(CO)C(=C1F)F)F)F | C10H10F4O2
reactant | sodium methoxide | 0.1 g | C[O-].[Na+]
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 20 cm3 | CO | CH4O
solvent | diglyme | COCCOCCOC | C6H14O3
product | 2,3,5-trifluoro-4-(ethoxymethyl)-6-methoxybenzyl alcohol | FC1=C(CO)C(=C(C(=C1F)COCC)F)OC | C11H13F3O3
